US09388189B2
a) N-(5-Bromopyridin-3-yl)-2,4-difluorobenzenesulfonamide
5-Bromopyridin-3-amine (500 mg, 2.89 mmol) was treated with 2,4-difluorobenzene-1-sulfonyl chloride (390 μl, 2.90 mmol) according to the method described in Preparation 15b to give 1.03 g (100% yield) of the title compound as an oil. Purity 74%.

reactant | 5-Bromopyridin-3-amine | 2.89 mmol, 500 mg | BrC=1C=C(C=NC1)N | C5H5BrN2
reactant | 2,4-difluorobenzene-1-sulfonyl chloride | 2.90 mmol, 390 μl | FC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
product | N-(5-Bromopyridin-3-yl)-2,4-difluorobenzenesulfonamide | 1.03 g, 100% yield | BrC=1C=C(C=NC1)NS(=O)(=O)C1=C(C=C(C=C1)F)F | C11H7BrF2N2O2S
